US06809199B2
Triphenyl phosphine (0.67 g, 2.55 mol) and carbon tetrabromide (0.85 g, 2.56 mmol) were added to a solution of [2,6-dichloro-4-(2-chloro-4-fluorophenyl)pyridin-3-yl]methanol (2.14 mmol theoretical) in 15 mL acetonitrile at rt. After stirring overnight, the solution was concentrated and the residue partitioned between water and dichloromethane. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica gel chromatography using ethyl ether/hexanes as the eluent to give 3-(bromomethyl)-2,6-dichloro-4-(2-chloro-4-fluorophenyl)pyridine. Mass spectrum (ESI) 368 (M+1). 1H NMR (500 MHz, CDCl3): δ 4.10(d, 1H, J=10.8 Hz); 4.53(d, 1H, J=10.6 Hz); 7.17(s, 1H); 7.15-7.21(m, 1H); 7.30-7.34(m, 1H); 7.36-7.41(m, 1H).

reactant | Triphenyl phosphine | 2.55 mol, 0.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.56 mmol, 0.85 g | C(Br)(Br)(Br)Br | CBr4
reactant | [2,6-dichloro-4-(2-chloro-4-fluorophenyl)pyridin-3-yl]methanol | 2.14 mmol | ClC1=NC(=CC(=C1CO)C1=C(C=C(C=C1)F)Cl)Cl | C12H7Cl3FNO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-(bromomethyl)-2,6-dichloro-4-(2-chloro-4-fluorophenyl)pyridine | BrCC=1C(=NC(=CC1C1=C(C=C(C=C1)F)Cl)Cl)Cl | C12H6BrCl3FN
